US07855297B2
By the reaction and treatment in the same manner as in Example 1 using thiochroman-4-carboxylic acid (0.55 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.63 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)thiochroman-4-carboxamide (0.3 g) was obtained. melting point: 118° C.

reactant | thiochroman-4-carboxylic acid | 0.55 g | S1CCC(C2=CC=CC=C12)C(=O)O | C10H10O2S
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.63 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)thiochroman-4-carboxamide | 0.3 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCSC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C)C | C28H32N2OS
